US07112697B1
1-Methoxy-2-(phenylthio)benzene (entry 5, Table 2):
The general procedure was used to convert iodobenzene and 2-methoxybenzenethiol to the title product. Purification by flash chromatography (hexane/CH2Cl2 [3:1] as the eluent) gave the analytically pure product as a clear oil (406 mg, 94% yield). 1H NMR (300 MHz, CDCl3) δ 7.43–7.25 (m, 6H; Hc, He, He′, HfHf′, Hg), 7.14 (dd, 1H; Ha), 6.96–6.89 (m, 2H; Hb, Hd), 3.90 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 157.20 (C6), 134.38 (C8), 131.88 (C2), 131.35 (C9, C13), 129.15 (C10, C12), 128.25 (C4), 127.40 (C11), 123.93 (C1), 121.14 (C3), 110.75 (C5), 55.76 (C7). Anal. Calcd. for C13H12OS: C, 72.19; H, 5.59; S, 14.82; Found C, 72.22; H, 5.70; S, 14.63.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 2-methoxybenzenethiol | COC1=C(C=CC=C1)S | C7H8OS
product | 1-Methoxy-2-(phenylthio)benzene | COC1=C(C=CC=C1)SC1=CC=CC=C1 | C13H12OS
